US07812047B2
A solution of 8-vinyl-naphthalene-1-carboxylic acid ethyl ester (1.1 g) in EtOH (25 ml) was treated with acetic acid (1 ml) and Pd/C (270 mg; 10%) and hydrogenated at normal pressure overnight. The catalyst was filtered off. The filtrate was concentrated. The crude product was isolated by chromatography (silica gel; gradient:cyclohexane→cyclohexane/EtOAc 3:2) to give 8-ethyl-naphthalene-1-carboxylic acid ethyl ester (1.05 g) as colorless liquid. MS (ISP): 229.3 ((M+H)+).

reactant | 8-vinyl-naphthalene-1-carboxylic acid ethyl ester | 1.1 g | C(C)OC(=O)C1=CC=CC2=CC=CC(=C12)C=C | C15H14O2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | EtOH | 25 ml | CCO | C2H6O
catalyst | Pd/C | 270 mg | [Pd] | Pd
product | 8-ethyl-naphthalene-1-carboxylic acid ethyl ester | 1.05 g | C(C)OC(=O)C1=CC=CC2=CC=CC(=C12)CC | C15H16O2
